### PR TITLE
[Merged by Bors] - refactor: New `Colex` API

### PR DESCRIPTION
**Pull request by YaelDillies**
This fully rewrites `Combinatorics.Colex` to use a type synonym approach instead of abusing defeq.

We also provide some API about initial segments of colex.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Colex.lean [hunk 1]
```diff
@@ -3,421 +3,391 @@ Copyright (c) 2020 Bhavik Mehta. All rights reserved.
...
-#align finset.to_colex Finset.toColex
+/-- `toColex` is the "identity" function between `Finset α` and `Finset.Colex α`. -/
+def toColex : Finset α ≃ Colex α := Equiv.refl _
 
-@[simp]
-theorem Colex.eq_iff (A B : Finset α) : A.toColex = B.toColex ↔ A = B :=
-  Iff.rfl
-#align colex.eq_iff Colex.eq_iff
+/-- `ofColex` is the "identity" function between `Finset.Colex α` and `Finset α`. -/
+def ofColex : Colex α ≃ Finset α := Equiv.refl _
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:86]: I'll actually do it here because I can then extend the structure to `ColexWith` for the colexigraphic order on finsets of fixed size.

File: Mathlib/Combinatorics/Colex.lean [hunk 2]
```diff
@@ -3,421 +3,391 @@ Copyright (c) 2020 Bhavik Mehta. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Bhavik Mehta, Alena Gusakov
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:4]:
```suggestion
Authors: Bhavik Mehta, Alena Gusakov, Yaël Dillies
```

File: Mathlib/Combinatorics/Colex.lean [hunk 3]
```diff
@@ -3,421 +3,391 @@ Copyright (c) 2020 Bhavik Mehta. All rights reserved.
...
+@[simp] lemma ofColex_inj {s t : Colex α} : ofColex s = ofColex t ↔ s = t := by cases s; cases t; simp
+lemma toColex_ne_toColex {s t : Finset α} : toColex s ≠ toColex t ↔ s ≠ t := by simp
+lemma ofColex_ne_ofColex {s t : Colex α} : ofColex s ≠ ofColex t ↔ s ≠ t := by simp
+
+namespace Colex
+section LT
+variable [LT α] {s t u : Finset α}
+
+/-- `s` is less than `t` in the colex ordering if the largest thing that's not in both sets is in t.
+In other words, `max (s ∆ t) ∈ t` (if the maximum exists). -/
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:106]: Actually, that's a good point. We don't care about non-linear orders (remember? you convinced me the current definition didn't make sense in partial orders), so we might as well use the simpler definition.

**Comment by b-mehta** [comment]
Switching this to WIP for the moment, Yaël and I have agreed on a different definition of this ordering, so I'll take it off queue while that gets organised.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/GeomSum.lean [hunk 4]
```diff
@@ -584,3 +584,13 @@ theorem geom_sum_neg_iff [LinearOrderedRing α] (hn : n ≠ 0) :
...
+
+/-- If all the elements of a finset of naturals are less than `n`, then the sum of their powers of
+`2` is less than `2 ^ n`. -/
+lemma Nat.sum_two_pow_lt {n : ℕ} {s : Finset ℕ} (hs : ∀ k ∈ s, k < n) :
+    ∑ k in s, 2 ^ k < 2 ^ n := by
+  calc
+    ∑ k in s, 2 ^ k ≤ ∑ k in range n, 2 ^ k := sum_le_sum_of_subset fun k hk ↦ mem_range.2 $ hs _ hk
+    _ = 2 ^ n - 1 := by
+        simp_rw [←one_add_one_eq_two, ←geom_sum_mul_add 1 n, mul_one, add_tsub_cancel_right]
+    _ < 2 ^ n := tsub_lt_self (by positivity) zero_lt_one
```
Comment (eric-wieser) [inline Mathlib/Algebra/GeomSum.lean:596]: Can this be used to golf `finPiFinEquiv` or similar?

File: Mathlib/Combinatorics/Colex.lean [hunk 5]
```diff
@@ -1,423 +1,408 @@
...
-It's defined here in a slightly more general way, requiring only `LT α` in
-the definition of colex on `Finset α`. In the context of the Kruskal-Katona
-theorem, we are interested in particular on how colex behaves for sets of a
-fixed size. If the size is 3, colex on ℕ starts
-123, 124, 134, 234, 125, 135, 235, 145, 245, 345, ...
+The colex ordering likes to avoid large values: If the biggest element of `t` is bigger than all
+elements of `s`, then `s < t`.
+
+In the special case of `ℕ`, it can be thought of as the "binary" ordering. That is, order `s` based
+on `∑_{i ∈ s} 2^i`. It's defined here on `Finset α` for any linear order `α`.
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:22]: Assuming this is a summation and not a sigma type:
```suggestion
on $∑_{i ∈ s} 2^i$. It's defined here on `Finset α` for any linear order `α`.
```

File: Mathlib/Combinatorics/Colex.lean [hunk 6]
```diff
@@ -1,423 +1,408 @@
...
+
+In the context of the Kruskal-Katona theorem, we are interested in how colex behaves for sets of a
+fixed size. For example, for size 3, the colex order on ℕ starts
+`123, 124, 134, 234, 125, 135, 235, 145, 245, 345, ...`
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:26]: Surely it starts `012`?

File: Mathlib/Combinatorics/Colex.lean [hunk 7]
```diff
@@ -1,423 +1,408 @@
...
-#align colex.eq_iff Colex.eq_iff
+open Colex
 
-/-- `A` is less than `B` in the colex ordering if the largest thing that's not in both sets is in B.
-In other words, `max (A ∆ B) ∈ B` (if the maximum exists).
--/
-instance Colex.instLT [LT α] : LT (Finset.Colex α) :=
-  ⟨fun A B : Finset α => ∃ k : α, (∀ {x}, k < x → (x ∈ A ↔ x ∈ B)) ∧ k ∉ A ∧ k ∈ B⟩
+/-- `toColex` is the "identity" function between `Finset α` and `Finset.Colex α`. -/
+add_decl_doc toColex
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:80]: nit: could put this in line above.

File: Mathlib/Combinatorics/Colex.lean [hunk 8]
```diff
@@ -1,423 +1,408 @@
...
+lemma toColex_injective : Injective (toColex : Finset α → Colex α) := fun _ _ ↦ toColex_inj.1
+lemma ofColex_injective : Injective (ofColex : Colex α → Finset α) := fun _ _ ↦ ofColex_inj.1
 
 namespace Colex
+section PartialOrder
+variable [PartialOrder α] [PartialOrder β] {f : α → β} {𝒜 𝒜₁ 𝒜₂ : Finset (Finset α)}
+  {s t u : Finset α} {a b : α}
+
+instance instLE : LE (Colex α) :=
+  ⟨fun s t ↦ ∀ ⦃a⦄, a ∈ ofColex s → a ∉ ofColex t → ∃ b, b ∈ ofColex t ∧ b ∉ ofColex s ∧ a ≤ b⟩
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:104]: nit:
```suggestion
instance instLE : LE (Colex α) where
  le s t := ∀ ⦃a⦄, a ∈ ofColex s → a ∉ ofColex t → ∃ b, b ∈ ofColex t ∧ b ∉ ofColex s ∧ a ≤ b
```

File: Mathlib/Combinatorics/Colex.lean [hunk 9]
```diff
@@ -1,423 +1,408 @@
...
+    · have ⟨b, hbu, hbt, hab⟩ := htu hat hau
+      by_cases hbs : b ∈ ofColex s
+      · have ⟨c, hcu, hcs, hbc⟩ := trans_aux hst htu b hbs hbt
+        exact ⟨c, hcu, hcs, hab.trans hbc⟩
+      · exact ⟨b, hbu, hbs, hab⟩
+    · exact trans_aux hst htu _ has hat
+
+lemma le_def {s t : Colex α} :
+    s ≤ t ↔ ∀ ⦃a⦄, a ∈ ofColex s → a ∉ ofColex t → ∃ b, b ∈ ofColex t ∧ b ∉ ofColex s ∧ a ≤ b :=
+  Iff.rfl
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:141]: nit: I think this should come immediately after the `LE` instance, and come with a docstring summarizing the definition.

File: Mathlib/Combinatorics/Colex.lean [hunk 10]
```diff
@@ -1,423 +1,408 @@
...
+
+/-- If `s ⊆ t`, then `s ≤ t` in the colex order. Note the converse does not hold, as inclusion does
+not form a linear order. -/
+lemma toColex_mono : Monotone (toColex : Finset α → Colex α) :=
+  fun _s _t hst _a has hat ↦ (hat <| hst has).elim
+
+/-- If `s ⊂ t`, then `s < t` in the colex order. Note the converse does not hold, as inclusion does
+not form a linear order. -/
+lemma toColex_strictMono : StrictMono (toColex : Finset α → Colex α) :=
+  toColex_mono.strictMono_of_injective toColex_injective
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:158]: For `exact?` etc, I think it would be best to first state this using subset notation.

File: Mathlib/Combinatorics/Colex.lean [hunk 11]
```diff
@@ -1,423 +1,408 @@
...
+  simp [le_def, Set.subset_def, and_assoc]
+
+/-- The colexigraphic order is insensitive to removing elements. -/
+lemma toColex_sdiff_le_toColex_sdiff (hus : u ⊆ s) (hut : u ⊆ t) :
+    toColex (s \ u) ≤ toColex (t \ u) ↔ toColex s ≤ toColex t := by
+  simp_rw [toColex_le_toColex, ←and_imp, ←and_assoc, ←mem_sdiff, sdiff_sdiff_sdiff_cancel_right hus,
+    sdiff_sdiff_sdiff_cancel_right hut]
+
+/-- The colexigraphic order is insensitive to removing elements. -/
+lemma toColex_sdiff_lt_toColex_sdiff (hus : u ⊆ s) (hut : u ⊆ t) :
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:232]: Surely `hus` and `hut` aren't needed?

File: Mathlib/Combinatorics/Colex.lean [hunk 12]
```diff
@@ -1,423 +1,408 @@
...
+    (∀ ⦃a⦄, a ∈ ofColex s → a ∉ ofColex t → ∃ b, b ∈ ofColex t ∧ b ∉ ofColex s ∧ a ≤ b) Iff.rfl
+
+instance instDecidableLT [@DecidableRel α (· ≤ ·)] : @DecidableRel (Colex α) (· < ·) :=
+  decidableLTOfDecidableLE
+
+lemma le_iff_sdiff_subset_lowerClosure {s t : Colex α} :
+    s ≤ t ↔ (ofColex s : Set α) \ ofColex t ⊆ lowerClosure (ofColex t \ ofColex s : Set α) := by
+  simp [le_def, Set.subset_def, and_assoc]
+
+/-- The colexigraphic order is insensitive to removing elements. -/
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Colex.lean:225]:
```suggestion
/-- The colexigraphic order is insensitive to removing elements, providing those elements appear in both sets. -/
```
or similar

**Review by eric-wieser — COMMENTED** [review]
Can anything be done about the diff? Or should this be reviewed as a total rewrite from scratch?

File: Mathlib/Algebra/GeomSum.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Algebra/GeomSum.lean:596]: Ah nevermind, I see this is just a move. If you PR this move separately I'll merge it immediately.

**Comment by YaelDillies** [comment]
I don't think there's a good way to save the diff here. It is almost a rewrite from scratch.

File: Mathlib/Combinatorics/Colex.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:158]: Does `exact?` care about the declaration order?

Comment (eric-wieser) [reply Mathlib/Combinatorics/Colex.lean:158]: No; did I miss that you already have the subset version below?

File: Mathlib/Combinatorics/Colex.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:141]: I won't put it there because `<` is not yet defined.

File: Mathlib/Combinatorics/Colex.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:26]: Not in Cambridge! But yeah let's fix it.

File: Mathlib/Combinatorics/Colex.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:158]: I was trying to interpret your "first state". I definitely don't want to state your lemmas first because I'm using `Monotone.strictMono_of_injective`. In fact, I don't want to state them at all because I'm pretty sure `exact?` is smart enough, but here are your lemmas.

File: Mathlib/Algebra/GeomSum.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GeomSum.lean:596]: I think I will need to generalise the lemma a bit. So I'll keep that for later.

File: Mathlib/Combinatorics/Colex.lean [hunk 13]
```diff
@@ -1,423 +1,414 @@
...
+### Colex on `ℕ`
+
+The colexicographic order agrees with the order induced by interpreting a set of naturals as a
+binary expansion.
+-/
+
+section Nat
+variable {s t : Finset ℕ}
+
+private lemma aux : StrictMono (fun s : Colex ℕ ↦ ∑ k in ofColex s, 2 ^ k) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:395]: I think it might be worth keeping this public, for instance to derive injectivity or if composition of this with other things is useful. In fact I think it would be great to make this a order isomorphism, but that doesn't need to be in this PR.

File: Mathlib/Combinatorics/Colex.lean [hunk 14]
```diff
@@ -1,423 +1,414 @@
...
+  rw [mem_initSeg]
+  refine' ⟨fun p ↦ _, _⟩
+  · rw [h𝒜.1 p, h𝒜.1 hs]
+    exact ⟨rfl, le_sup' _ p⟩
+  rintro ⟨cards, le⟩
+  obtain p | p := le.eq_or_lt
+  · rwa [toColex_inj.1 p]
+  · exact h𝒜.2 hs ⟨p, cards ▸ h𝒜.1 hs⟩
+
+/-- Being a nonempty initial segment of colex if equivalent to being an `initSeg`. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:374]:
```suggestion
/-- Being a nonempty initial segment of colex is equivalent to being an `initSeg`. -/
```

File: Mathlib/Combinatorics/Colex.lean [hunk 15]
```diff
@@ -1,423 +1,414 @@
...
+  obtain hst | hst | hts := trichotomous_of (α := Colex α) (· < ·) (toColex s) (toColex t)
+  · exact hs.2 <| h₂.2 ht.1 ⟨hst, h₁.1 hs.1⟩
+  · simp only [toColex.injEq] at hst
+    exact ht.2 <| hst ▸ hs.1
+  · exact ht.2 <| h₁.2 hs.1 ⟨hts, h₂.1 ht.1⟩
+
+variable [Fintype α]
+
+/-- Gives all sets up to `s` with the same size as it: this is equivalent to
+being an initial segment of colex. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:344]: The equivalent condition here should mention the fixed size requirement I think, especially because "colex" in this file means on Finset Nat rather than fixing the size.

File: Mathlib/Combinatorics/Colex.lean [hunk 16]
```diff
@@ -1,423 +1,414 @@
...
-        · apply irrefl _ t
-      rintro ⟨h₁ | rfl, h₂⟩
-      · apply h₁
-      apply h₂.elim (Or.inr rfl) }
-
-/-- The instances set up let us infer that `(· < ·)` is a strict total order. -/
-example [LinearOrder α] : IsStrictTotalOrder (Finset.Colex α) (· < ·) :=
-  inferInstance
+lemma toColex_image_le_toColex_image (hf : StrictMono f) :
+    toColex (s.image f) ≤ toColex (t.image f) ↔ toColex s ≤ toColex t := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:308]: Does this suggest we should make `StrictMono (fun s => s.image f)` (with some toColex scattered as appropriate) taking `StrictMono f` as an argument

File: Mathlib/Combinatorics/Colex.lean [hunk 17]
```diff
@@ -1,423 +1,414 @@
...
+    have hms : m ∈ s := by simpa [mem_symmDiff, hmt] using max'_mem _ <| symmDiff_nonempty.2 hst
+    have ⟨b, hbt, hbs, hmb⟩ := h hms hmt
+    exact lt_irrefl _ <| (max'_lt_iff _ _).1 (hmb.lt_of_ne <| ne_of_mem_of_not_mem hms hbs) _ <|
+      mem_symmDiff.2 <| Or.inr ⟨hbt, hbs⟩
+  · have hst : s ≠ t := ne_of_mem_of_not_mem' has hat
+    refine ⟨_, h hst, ?_, le_max' _ _ <| mem_symmDiff.2 <| Or.inl ⟨has, hat⟩⟩
+    simpa [mem_symmDiff, h hst] using max'_mem _ <| symmDiff_nonempty.2 hst
+
+lemma le_iff_max'_mem {s t : Colex α} :
+    s ≤ t ↔ ∀ h : s ≠ t, (ofColex s ∆ ofColex t).max' (max_mem_aux h) ∈ ofColex t :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:294]:
```suggestion
    s ≤ t ↔ ∀ h : s ≠ t, (ofColex s ∆ ofColex t).max' (by simpa) ∈ ofColex t :=
```
I guess? Or `by simpa using h`. And below

File: Mathlib/Combinatorics/Colex.lean [hunk 18]
```diff
@@ -1,423 +1,414 @@
...
+  simp only [mem_filter, and_imp] at hb hbmax
+  have ⟨c, hct, hcs, hbc⟩ := hst hb.1 hb.2.1
+  by_cases hcu : c ∈ u
+  · exact ⟨c, hcu, hcs, hb.2.2.trans hbc⟩
+  have ⟨d, hdu, hdt, hcd⟩ := htu hct hcu
+  have had : a ≤ d := hb.2.2.trans <| hbc.trans hcd
+  refine ⟨d, hdu, fun hds ↦ ?_, had⟩
+  exact hbmax d hds hdt had <| hbc.trans_lt <| hcd.lt_of_ne <| ne_of_mem_of_not_mem hct hdt
+
+private lemma antisymm_aux (hst : toColex s ≤ toColex t) (hts : toColex t ≤ toColex s) : s ⊆ t := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:119]: I really want `wlog` or some variant to be able to generate this...

File: Mathlib/Combinatorics/Colex.lean [hunk 19]
```diff
@@ -1,423 +1,414 @@
...
-    A.toColex ≤ B.toColex ↔ A.toColex < B.toColex ∨ A = B :=
+namespace Colex
+section PartialOrder
+variable [PartialOrder α] [PartialOrder β] {f : α → β} {𝒜 𝒜₁ 𝒜₂ : Finset (Finset α)}
+  {s t u : Finset α} {a b : α}
+
+instance instLE : LE (Colex α) where
+  le s t := ∀ ⦃a⦄, a ∈ ofColex s → a ∉ ofColex t → ∃ b, b ∈ ofColex t ∧ b ∉ ofColex s ∧ a ≤ b
+
+private lemma trans_aux (hst : toColex s ≤ toColex t) (htu : toColex t ≤ toColex u)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:104]: Have you considered making this public? It's weirdly useful in this file so I somehow wonder if it has other applications

File: Mathlib/Combinatorics/Colex.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:294]: I've explicitly not done this because the proof term will show up in the goal, and I want to make sure it's small.

File: Mathlib/Combinatorics/Colex.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:104]: How would you name it?

File: Mathlib/Combinatorics/Colex.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:119]: Actually I think it Just Works?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:119]: Nevermind, we would need something like `wlog_suffices` or something.

File: Mathlib/Combinatorics/Colex.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:308]: I've added the lemma but I'm not sure it's useful.

File: Mathlib/Combinatorics/Colex.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Colex.lean:106]: I'm not so convinced about its current form. I've left a TODO instead of making it public.

File: Mathlib/Algebra/GeomSum.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GeomSum.lean]: I've generalised the lemma and I now think it can't be used for `finPiFinEquiv`, at least not without being generalised further.

File: Mathlib/Combinatorics/Colex.lean [hunk 20]
```diff
@@ -1,423 +1,423 @@
...
+    ∑ k in s, n ^ k ≤ ∑ k in t, n ^ k ↔ toColex s ≤ toColex t :=
+  (geomSum_ofColex_strictMono hn).le_iff_le
+
+/-- For finsets of naturals of naturals, the colexicographic order is equivalent to the order
+induced by the binary expansion. -/
+lemma geomSum_lt_geomSum_iff_toColex_lt_toColex (hn : 2 ≤ n) :
+    ∑ i in s, n ^ i < ∑ i in t, n ^ i ↔ toColex s < toColex t :=
+  (geomSum_ofColex_strictMono hn).lt_iff_lt
+
+-- TODO: Package the above as an order isomorphism `Colex ℕ ≃o ℕ`
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:420]:
```suggestion
-- TODO: Package the above in the `n=2` case as an order isomorphism `Colex ℕ ≃o ℕ`
```
(since it won't be surjective if `n > 2`)

File: Mathlib/Combinatorics/Colex.lean [hunk 21]
```diff
@@ -1,423 +1,423 @@
...
 
 end Colex
+
+open Colex
+
+/-!
+### Colex on `ℕ`
+
+The colexicographic order agrees with the order induced by interpreting a set of naturals as a
+binary expansion.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Colex.lean:394]:
```suggestion
`n`-ary expansion.
```
and similar below?

**Review by b-mehta — APPROVED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
